US08304539B2
Synthesis of 4-(3,3-difluoropyrrolidine-1-carbonyl)phenylboronic acid
A mixture of 4-boronobenzoic acid (500 mg, 3.01 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (866 mg, 4.52 mmol) and 1-hydroxybenzotriazole (554 mg, 3.62 mmol) in acetonitrile (25 mL) was sonicated until it became a solution. N,N-Diisopropylethylamine (1.579 mL, 9.04 mmol) and 3,3-difluoropyrrolidine (484 mg, 4.52 mmol) were added. After 30 min at room temperature, the mixture was quenched with saturated NH4Cl (50 mL) and extracted with EtOAc (3×). The combined extracts were washed with brine, water, dried (Na2SO4) and concentrated. Reverse phase HPLC purification gave the expected product (0.250 mg, 33% yield). MS (ES+) m/z: 256 (M+H); LC retention time: 1.87 min (analytical HPLC Method A).

reactant | 4-boronobenzoic acid | 3.01 mmol, 500 mg | B(O)(O)C1=CC=C(C(=O)O)C=C1 | C7H7BO4
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4.52 mmol, 866 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 3.62 mmol, 554 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-Diisopropylethylamine | 9.04 mmol, 1.579 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,3-difluoropyrrolidine | 4.52 mmol, 484 mg | FC1(CNCC1)F | C4H7F2N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 4-(3,3-difluoropyrrolidine-1-carbonyl)phenylboronic acid | 0.250 mg, 33% yield | FC1(CN(CC1)C(=O)C1=CC=C(C=C1)B(O)O)F | C11H12BF2NO3
